US07718693B2
(2,4-Dichlorophenyl)methyl isocyanide (0.075 g, 0.4 mmol) and crude 2,2-dimethyl-4-oxobutanoic acid (0.115 g, 0.6 mmol) were dissolved in methanol (2 ml). Ethylamine solution (2M in water, 0.3 ml, 0.6 mmol) was added and the mixture was heated in a sealed vessel at 100° C. for 30 minutes in a microwave reactor. The mixture was left to stand over the weekend and then the solvent was removed in vacuo and the resulting orange oil was purified by mass-directed automated HPLC to give a clear oily gum which was triturated with diethyl ether to give N-[(2,4-dichlorophenyl)methyl]-1-ethyl-4,4-dimethyl-5-oxoprolinamide as a white solid (0.024 g). LC/MS [M+H]+=343, retention time=2.57 minutes.

reactant | (2,4-Dichlorophenyl)methyl isocyanide | 0.4 mmol, 0.075 g | ClC1=C(C=CC(=C1)Cl)C[N+]#[C-] | C8H5Cl2N
reactant | 2,2-dimethyl-4-oxobutanoic acid | 0.6 mmol, 0.115 g | CC(C(=O)O)(CC=O)C | C6H10O3
reactant | Ethylamine | 0.6 mmol, 2M, 0.3 ml | C(C)N | C2H7N
reactant | methanol | 2 ml | CO | CH4O
product | N-[(2,4-dichlorophenyl)methyl]-1-ethyl-4,4-dimethyl-5-oxoprolinamide | 0.024 g | ClC1=C(C=CC(=C1)Cl)CNC([C@H]1N(C(C(C1)(C)C)=O)CC)=O | C16H20Cl2N2O2
